US06890935B2
(2S)-N-(tert-Butoxycarbonyl)-2-ethynylpyrrolidine
A solution of (2S)-N-(tert-butoxycarbonyl)-2-formylpyrrolidine (4.0 g, 20 mmole), carbon tetrabromide (6.67 g, 20.1 mmole) and triphenylphosphine (5.26 g, 20.1 mmole) in methylene chloride (100 mL) was stirred at ambient temperature under a nitrogen atmosphere for 24 hours. The mixture was concentrated, then purified by chromatography, using (1:1) ethyl acetate: hexane as eluant to provide the desired product as an oil. The product was dissolved in dry tetrahydrofuran (50 mL) and cooled to −78° C. A solution of n-butyllithium (50.25 mL, 20.1 mmole, 2.5 M solution in hexanes) was added and the mixture was stirred at −78° C. for 1 h. The material was quenched with water (20 mL) and extracted with ethyl acetate (3×50 mL). The combined extracts were dried (K2CO3), concentrated and purified by chromatography, using (1:1) ethyl acetate:hexane as eluant to provide (3.10 g, 91%) of a colorless oil.

reactant | (2S)-N-(tert-butoxycarbonyl)-2-formylpyrrolidine | 20 mmole, 4.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=O | C10H17NO3
reactant | carbon tetrabromide | 20.1 mmole, 6.67 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 20.1 mmole, 5.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (2S)-N-(tert-Butoxycarbonyl)-2-ethynylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C#C | C11H17NO2
